US08211897B2
To (3S)-3-amino-4-cyclobutyl-N-cyclopropyl-2-hydroxybutanamide (214 mg, 0.83 mmol) was added 4.0 M HCl in dioxane (11.0 mL). After 1 hour, the reaction mixture was concentrated and dried to give (3S)-3-amino-4-cyclobutyl-N-cyclopropyl-2-hydroxy-butanamide HCl salt as a white solid. To this salt was added (2S,4R)-1-((S)-2-(3-tert-butoxycarbonylamino)-3,3-dimethylbutanoyl)-4-(5-chloro-pyridin-2-yloxy)-pyrrolidine-2-carboxylic acid in dichloromethane/N,N-dimethylformamide (1:1, 10.0 mL), 1 (3 dimethylaminopropyl)-3 ethylcarbodiimide hydrochloride (EDCI) (238 mg, 1.24 mmol), 1-hydroxybenzotriazole (HOBT) (190 mg, 1.24 mmol) and N-methylmorpholine (0.6 mL, 3.32 mmol). After 16 hours at room temperature, the reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate, brine, and dried over magnesium sulfate. The ethyl acetate layer was then filtered, concentrated under reduced pressure, and the residue purified by flash chromatography to give tert-butyl (2S)-1-((2S,4R)-4-(5-chloro-pyridin-2-yloxy)-2-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamoyl)pyrrolidin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate in 58% yield.

reactant | (3S)-3-amino-4-cyclobutyl-N-cyclopropyl-2-hydroxybutanamide | 0.83 mmol, 214 mg | N[C@H](C(C(=O)NC1CC1)O)CC1CCC1 | C11H20N2O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 11.0 mL | O1CCOCC1 | C4H8O2
product | (3S)-3-amino-4-cyclobutyl-N-cyclopropyl-2-hydroxy-butanamide HCl salt | Cl.N[C@H](C(C(=O)NC1CC1)O)CC1CCC1 | InChI=1S/C11H20N2O2.ClH/c12-9(6-7-2-1-3-7)10(14)11(15)13-8-4-5-8;/h7-10,14H,1-6,12H2,(H,13,15);1H/t9-,10?;/m0./s1
